US09260469B2
Preparation of 3-((2R,4S,5R)-5-((bis(4-Methoxyphenyl)(phenyl)methoxy)methyl)-4-hydroxy-tetrahydrofuran-2-yl)-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-2(3H)-one
A 50 L reactor was charged with 2.8 kg (7.03 mol) of 3-((2R,4S,5R)-4-hydroxy-5-(hydroxymethyl)-tetrahydrofuran-2-yl)-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-2(3H)-one, 2.8 kg (35.4 mol) of pyridine and 22.4 kg of dichloromethane. The mixture was stirred and to it was added 2.86 kg (8.44 mol) 4,4′-dimethoxyltritylchloride (DMT-Cl) in 14.9 kg dichloromethane at room temperature (rt). After addition, the mixture was stirred for 0.5 h at rt. The mixture was filtered and the filtrate was washed with brine. The filtrate contained the desired product which was used directly in the next step.

reactant | 3-((2R,4S,5R)-4-hydroxy-5-(hydroxymethyl)-tetrahydrofuran-2-yl)-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-2(3H)-one | 7.03 mol, 2.8 kg | O[C@H]1C[C@@H](O[C@@H]1CO)N1C(N=C2C(=C1)C=C(O2)C2=CC=C(C=C2)CCCCC)=O | C22H26N2O5
reactant | pyridine | 35.4 mol, 2.8 kg | N1=CC=CC=C1 | C5H5N
reactant | 4,4′-dimethoxyltritylchloride | 8.44 mol, 2.86 kg | O(C)C1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | dichloromethane | 14.9 kg | ClCCl | CH2Cl2
solvent | dichloromethane | 22.4 kg | ClCCl | CH2Cl2
product | 3-((2R,4S,5R)-5-((bis(4-Methoxyphenyl)(phenyl)methoxy)methyl)-4-hydroxy-tetrahydrofuran-2-yl)-6-(4-pentylphenyl)furo[2,3-d]pyrimidin-2(3H)-one | COC1=CC=C(C=C1)C(OC[C@@H]1[C@H](C[C@@H](O1)N1C(N=C2C(=C1)C=C(O2)C2=CC=C(C=C2)CCCCC)=O)O)(C2=CC=CC=C2)C2=CC=C(C=C2)OC | C43H44N2O7
